US08192952B2
Step 3: Synthesis of L-(7-hydroxycoumarin-4-yl) ethylglycine (FIG. 1. Structure 1)
(2S)-2 Benzyloxycarbonylamino-5-oxo-heptanedioic acid 1-benzyl ester 7-ethyl ester from the previous step (2.35 g, 5 mmol) was added slowly to resorcinol (3 g, 25 mmol) in methanesulfonic acid (20 ml) and stirred for two hours at room temperature. Five volumes of ether were then added to the mixture and was cooled to −30° C. The precipitate was washed with cold ether, dissolved in water, filtered, and lyophilized. L-(7-hydroxycoumarin-4-yl)ethylglycine was purified by reverse phase HPLC to afford a brown solid in 50% yield (YMC AA12S052503WT column, 12 ml/min flow rate, from 10% to 90% CH3CN, 0.1% TFA (w/v) in water, over the course of 12 min). 1H-NMR (DMSO): δ 2.06 (s, 2H), 2.70-2.90 (m, 2H), 3.82-4.0 (m, 1H), 6.06 (s, 1H), 6.75 (dd, J=8.8, 2.4, 1H), 6.82 (d, J=2.4, 1H), 7.62 (d, J=8.8, 1H), 8.17 (s, 3H). LC-MS (ESI) calc. for C13H14NO5 (M+H+) 264.08 Da, obsd. 264.0 Da.

reactant | (2S)-2 Benzyloxycarbonylamino-5-oxo-heptanedioic acid 1-benzyl ester 7-ethyl ester | C(C)OC(CC(CC[C@@H](C(=O)OCC1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1)=O)=O | C24H27NO7
reactant | resorcinol | 25 mmol, 3 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | ether | CCOCC | C4H10O
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methanesulfonic acid | 20 ml | CS(=O)(=O)O | CH4O3S
solvent | water | O | H2O
solvent | CH3CN | CC#N | C2H3N
product | L-(7-hydroxycoumarin-4-yl) ethylglycine | 50% yield | C1=CC2=C(C=C1O)OC(=O)C=C2CC[C@H](C(=O)O)N | C13H13NO5
